US07919496B2
5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL][1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID [2-(4-FLUOROPHENYL)ETHYL]AMIDE
Following the procedure as described in Example 3, making variations only as required to use 2-(4-fluorophenyl)ethylamine in place of isoamylamine to react with 5[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid (0.098 g, yield 98%). 1H NMR (300 MHz, CDCl3) δ 7.74-7.71 (m, 1H), 7.64-7.52 (m, 2H), 7.34-7.32 (m, 1H), 7.17-7.05 (m, 3H), 6.99-6.94 (m, 2H), 4.09-4.02 (m, 1H), 3.9-3.82 (m, 1H), 3.76-3.61 (m, 4H), 3.54-3.51 (m, 2H), 3.35-3.31 (m, 2H), 2.86 (t, J=7.2 Hz, 2H). 13C NMR (75 MHz, CDCl3) δ 174.5, 167.6, 163.3, 160.0, 158.3, 155.6, 134.1, 133.9, 132.4, 130.2, 130.1, 129.7, 129.1, 126.9, 126.7, 126.8, 125.4, 121.8, 115.6, 115.3, 49.5, 48.9, 45.9, 40.9, 40.7, 34.9. MS (ES+) m/z 508 (M+1).

reactant | 2-(4-fluorophenyl)ethylamine | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | 5[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL][1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID [2-(4-FLUOROPHENYL)ETHYL]AMIDE | FC1=CC=C(C=C1)CCNC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H21F4N5O2S
